US09193721B2
Step H: Methyl 5-[4-(tert-butoxycarbonyl)piperazin-1-yl]-8-chloroimidazo[1,5-a]pyridine-6-carboxylate
Into the reaction was added methyl 8-chloro-5-piperazin-1-ylimidazo[1,5-a]pyridine-6-carboxylate hydrochloride (700 mg, 2.1 mmol), sodium hydrogenecarbonate (940 mg, 11 mmol), water (14 mL, 780 mmol) and tetrahydrofuran (9.4 mL). The reaction mixture was foamy and after all the bubbling ceased, di-tert-butyldicarbonate (1.4 g, 6.3 mmol) was added and the mixture was stirred at room temperature overnight. The mixture was concentrated, extracted with ethyl acetate, dried over Na2SO4 and evaporated. Purification on silica gel using ethyl acetate in hexanes (0-100%) gave the desired compound (202 mg, 24%). LCMS calculated for C18H24ClN4O4 (M+H)+: m/z=395.1. found: 394.9.

reactant | methyl 8-chloro-5-piperazin-1-ylimidazo[1,5-a]pyridine-6-carboxylate hydrochloride | 2.1 mmol, 700 mg | Cl.ClC=1C=2N(C(=C(C1)C(=O)OC)N1CCNCC1)C=NC2
reactant | sodium | 11 mmol, 940 mg | [Na] | Na
reactant | water | 780 mmol, 14 mL | O | H2O
reactant | di-tert-butyldicarbonate | 6.3 mmol, 1.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 9.4 mL | O1CCCC1 | C4H8O
product | Methyl 5-[4-(tert-butoxycarbonyl)piperazin-1-yl]-8-chloroimidazo[1,5-a]pyridine-6-carboxylate | 202 mg, 24% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=2N1C=NC2)Cl)C(=O)OC | C18H23ClN4O4
